US05576324
3-(tert-Butyldimethylsilyloxy)methyl-2-hydroxymethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one:
5-Acetoxy-6-[1-(tert-butyldimethylsilyloxy)methyl-2,3-epoxypropyl]-8-methylcarbostyril (6.10 g, 14.6 mmol) was dissolved in a solvent mixture (150 ml) of tetrahydrofuran methanol (1:1), to which aqueous 1N-NaOH solution (25 ml) was added. The mixture was stirred at 50° C. for 30 minutes. Concentrated HCl was added to adjust the pH to about 5. Extraction was carried out using chloroform--water. The organic phase was dried over sodium sulfate and condensed under reduced pressure. The resultant residue was recrystallized from chloroform--ether--n-hexane. As a result, 5.10 g the title compound (mixture of diasteromers, 3.1) was obtained as colorless powdery crystals (93.0%).

reactant | 5-Acetoxy-6-[1-(tert-butyldimethylsilyloxy)methyl-2,3-epoxypropyl]-8-methylcarbostyril | 14.6 mmol, 6.10 g | C(C)(=O)OC1=C2C=CC(NC2=C(C=C1C(C1CO1)CO[Si](C)(C)C(C)(C)C)C)=O | C22H31NO5Si
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran methanol | 150 ml | O1C(CCC1)CO | C5H10O2
solvent | NaOH | 25 ml | [OH-].[Na+]
product | 3-(tert-Butyldimethylsilyloxy)methyl-2-hydroxymethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one | 5.10 g | [Si](C)(C)(C(C)(C)C)OCC1C(OC2=C3C=CC(NC3=C(C=C21)C)=O)CO | C20H29NO4Si
